US06639107B1
Preparation of (+,−) Cis-Propane-2-sulfonic Acid [2-(3-fluoro-phenyl)-cyclopentyl]-amide
A 100 mL round bottom flask equipped with a magnetic stirrer was charged with (+,−) cis-[2-(3-fluoro-phenyl)-cyclopentylamine (650 mg, 3.63 mmol) from preparation 14, methylene chloride (15.0 mL) and the solution cooled to 0° C. DBU (0.65 mL, 4.35 mmol) and isopropylsulfonyl chloride (0.49 mL, 4.35 mmol) were added. The reaction was then stirred at 0° C. for 60.0 minutes and brought to room temperature with stirring overnight. The reaction was diluted with methylene chloride and washed with 1N HCl, brine and the organic layer dried over sodium sulfate. The title compound.was purified by radial chromatography eluting with methylene chloride to give 573 mg (55%) of the purified title compound as a white solid. The nmr was consistent with the assigned structure.

reactant | 2-(3-fluoro-phenyl)-cyclopentylamine | 3.63 mmol, 650 mg | FC=1C=C(C=CC1)C1C(CCC1)N | C11H14FN
reactant | DBU | 4.35 mmol, 0.65 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | isopropylsulfonyl chloride | 4.35 mmol, 0.49 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15.0 mL | C(Cl)Cl | CH2Cl2
product | (+,−) Cis-Propane-2-sulfonic Acid [2-(3-fluoro-phenyl)-cyclopentyl]-amide | FC=1C=C(C=CC1)[C@@H]1[C@@H](CCC1)NS(=O)(=O)C(C)C | C14H20FNO2S
